US06479424B1
A flame dried 3 L three neck round bottom flask fit with a magnetic stirrer, condenser, heating mantle, and nitrogen inlet was charged with indane (49 mL, 0.40 mol, Aldrich), anhydrous methylene chloride (800 mL, Aldrich), and 2,5-dichloro-2,5-dimethylhexane. The mixture was heated to reflux and the aluminum chloride (5.65 g, 0.042 mol). was added portionwise while refluxing the reaction. The reaction mixture was quenched in 1 L 5% HCl/ice, the layers separated, and the combined organics washed with water until neutral to pH paper. The organics were then dried over anhydrous magnesium sulfate, stripped of solvent by rotary evaporation and distilled to yield 5,5,8,8-tetramethyl-5,6,7,8-tetrahydrobenz(f)indane (32.1 g, 105-110° C./0.4-0.45 mm Hg, 76-89% pure by GC). 1HNMR (CDCl3, 500 MHz) δ7.19 (s, 2H); 2.86 (t, J=7.5 Hz, 4H); 2.04 (p, J=7.5 Hz, 2H); 1.67 (s, 4H); 1.28 (s, 12H).

reactant | indane | 0.40 mol, 49 mL | C1CCC2=CC=CC=C12 | C9H10
reactant | 2,5-dichloro-2,5-dimethylhexane | ClC(C)(CCC(C)(C)Cl)C | C8H16Cl2
reactant | aluminum chloride | 0.042 mol, 5.65 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 800 mL | C(Cl)Cl | CH2Cl2
product | 5,5,8,8-tetramethyl-5,6,7,8-tetrahydrobenz(f)indane | 32.1 g, 76-89% | CC1(CCC(C2=CC=3CCCC3C=C21)(C)C)C | C17H24
